US06307047B1
2-(2,2,2-trifluoroethyl)-4-(4-fluoro-3-methylphenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The boronic acid (231 mg, 1.5 mmol), prepared in example 210A, 2-(2,2,2-trifluoroethyl)-4-chloro-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (500 mg, 1.36 mmol), tetrakis-(triphenylphosphine)-palladium(0) (47 mg, 0.041 mmol), and CsF (413 mg, 2.72 mmol) were stirred at reflux in DME (20 mL) under N2 for 5 hours. TLC (1:1 hexanes/ethyl acetate) indicated that all the starting material was consumed. Volatiles were removed in vacuo. The residue was partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over MgSO4, and filtered. The filtrate was concentrated in vacuo. An off white powder was obtained (yield: 275 mg, 46%). mp 88-91° C.; 1H NMR (300 MHz, CDCl3, a mixture of rotamers) δ 2.2, 2.25 (2d, J=1.5 Hz, 3H) 3.05, 3.09 (2 s, 3H) 4.78-4.92 (m, 2H) 6.61-6.8 (m, 1H) 6.82-6.98 (m, 1H) 7.35 (d, J=9 Hz, 1H) 7.78 (d, J=9 Hz, 1H) 7.86-8.09 (m, 4H). MS (DCI/NH3), m/z 441 (M+H)+. Anal. calc. for C20H16F4N2O3S.0.5 H2O: C, 53.45; H, 3.81; N, 6.23. Found C, 53.17; H, 3.65; N, 5.88.

reactant | boronic acid | 1.5 mmol, 231 mg | B(O)O | BH3O2
reactant | 2-(2,2,2-trifluoroethyl)-4-chloro-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | 1.36 mmol, 500 mg | FC(CN1N=CC(=C(C1=O)Cl)C1=CC=C(C=C1)S(=O)(=O)C)(F)F | C13H10ClF3N2O3S
reactant | CsF | 2.72 mmol, 413 mg | [F-].[Cs+]
reactant | NH3 | N | H3N
solvent | DME | 20 mL | COCCOC | C4H10O2
catalyst | tetrakis-(triphenylphosphine)-palladium(0) | 0.041 mmol, 47 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | H2O | O | H2O
product | 2-(2,2,2-trifluoroethyl)-4-(4-fluoro-3-methylphenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC(CN1N=CC(=C(C1=O)C1=CC(=C(C=C1)F)C)C1=CC=C(C=C1)S(=O)(=O)C)(F)F | C20H16F4N2O3S
